US04080451
2-(Ethoxycarbonylmethoxymethyl)-1,3,4-oxadiazole-5-thiol
A solution of potassium hydroxide (0.22 g.) in ethanol (2.5 ml.) was added to a suspension of ethoxycarbonylmethoxyacetohydrazide in ethanol (4 ml.), followed by the addition of carbon disulfide (0.95 ml.) and dimethyl sulfoxide (0.54 ml.), respectively. The reaction mixture was then refluxed for a period of 12 hours, cooled and filtered, and the resulting filtrate subsequently evaporated in vacuo. The residual oil so obtained was then dissolved in water, filtered and the filtrate acidified to pH 2.0 with aqueous 2N hydrochloric acid. Extraction of the latter solution with ethyl acetate and subsequent evaporation of the solvent then yielded the desired product, viz., 2-(ethoxycarbonylmethoxymethyl)-1,3,4-oxadiazole-5-thiol, as a white solid material(yield, 0.5 g.), m.p. 101°-103° C.

reactant | potassium hydroxide | 0.22 g | [OH-].[K+]
reactant | ethoxycarbonylmethoxyacetohydrazide | C(C)OC(=O)COCC(=O)NN | C6H12N2O4
reactant | carbon disulfide | 0.95 ml | C(=S)=S | CS2
reactant | dimethyl sulfoxide | 0.54 ml | CS(=O)C | C2H6OS
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(Ethoxycarbonylmethoxymethyl)-1,3,4-oxadiazole-5-thiol | C(C)OC(=O)COCC=1OC(=NN1)S | C7H10N2O4S
